2189-03-24 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: L PICA aneurysm coiling
   24 Hour Events:
 ULTRASOUND - At [**2189-3-23**] 11:21 AM
   r/o pseudo aneurysm to R. Groin
 PICC LINE - START [**2189-3-23**] 11:56 AM
 ARTERIAL LINE - STOP [**2189-3-24**] 12:15 AM
    PACs and self-limited atrial tachycardia, repleted lytes
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2189-3-23**] 04:16 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2189-3-23**] 11:22 AM
   Heparin Sodium (Prophylaxis) - [**2189-3-23**] 09:00 PM
   Famotidine (Pepcid) - [**2189-3-24**] 12:00 AM
   Morphine Sulfate - [**2189-3-24**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-3-24**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98.1
   HR: 93 (90 - 104) bpm
   BP: 161/58(85) {109/38(66) - 179/116(124)} mmHg
   RR: 22 (11 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,020 mL
                                                                    730 mL
   PO:
             TF:
   IVF:
                                                                  2,020 mL
                                                                    730 mL
   Blood products:
   Total out:
                                                                  2,170 mL
                                                                    940 mL
   Urine:
                                                                  2,170 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -150 mL
                                                                   -210 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 99%
   ABG: ///33/
   Physical Examination
   Gen: alert and oriented X3
   CV: RRR, nl s1/s2, no MRG
   Resp: decreased BS at bases R>L
   Abd: soft, NT/ND, NABS
   Ext: no edema, R groin small hematoma + bruit
   Neuro: speech spont & fluent, CN II-XII intact, mild left facial droop,
   pupils L 2cm, R 4cm reactive
   L finger flex/ext, biceps, L LE hip flex/ext, ankle flex/ext 4+, all
   other groups 5+
   Labs / Radiology
   333 K/uL
   7.8 g/dL
   97 mg/dL
   0.5 mg/dL
   33 mEq/L
   3.8 mEq/L
   15 mg/dL
   96 mEq/L
   139 mEq/L
   24.1 %
   10.4 K/uL
        [image002.jpg]
                             [**2189-3-20**]  08:41 PM
                             [**2189-3-21**]  02:52 AM
                             [**2189-3-21**]  05:49 AM
                             [**2189-3-21**]  04:55 PM
                             [**2189-3-22**]  02:50 AM
                             [**2189-3-22**]  10:00 AM
                             [**2189-3-22**]  04:08 PM
                             [**2189-3-22**]  05:58 PM
                             [**2189-3-23**]  02:27 AM
                             [**2189-3-24**]  01:00 AM
   WBC
   25.1
   13.6
   12.9
   10.4
   Hct
   26.6
   23.3
   23.9
   23.0
   24.1
   Plt
   451
   341
   336
   333
   Cr
   0.6
   0.4
   0.6
   0.5
   0.5
   TCO2
   28
   34
   32
   31
   Glucose
   109
   112
   100
   146
   120
   97
   97
   Other labs: PT / PTT / INR:13.1/28.0/1.1, Ca++:8.3 mg/dL, Mg++:1.9
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Assessment & Plan: The patient is a 66y/o female with a PMH of PVD,
   HTN, hyperlipidemia admitted with large left proximal PICA aneurysm now
   s/p coiling transferred to MICU service for further management
   .
   #. Hypoxia - pt with evidence of small effusions b/l and atelectasis,
   also sputum production with + culture and previous infiltrate
   concerning for PNA.  CXR appears improved this morning, however, the
   patient appears acutely worse now.  Sputum growing Moraxella and now D3
   ceftriaxone (started [**3-22**]), however, pt. has been in hospital for over
   a week.  Had CT chest on [**3-17**], but respiratory status now worse.
   - Start vanc & zosyn for possible HAP; recheck sputum sample
   - CTA chest for ?PE with D5W NaHCO3 for prehydration
   - if no PE and fails to improve with antibiotics, consider starting
   steroids for COPD flare
   - encourage incentive spirometry
   - maintain SpO2 92-94%, wean O2 as tolerated
   - baseline COPD - inhalers prn
   .
   #. L PICA aneurysm s/p coiling - per neurosurgery patient now with
   expected left medullary infarct w/ left sided weakness. CT head stable
   on [**3-22**]
   - no need to limit BP control currently per NSG recs
   - monitor neuro exam q2hrs; head CT if acute neuro change
   - f/u NSG recs
   .
   #. R femoral hematoma - US without evidence of aneurysm or fistula,
   stable
   - continue to monitor HCT
 now stable
   .
   #. Severe iron deficiency/Acute Blood Loss anemia - received 2U PRBC on
   [**3-17**] for HCT 21, trended down post-procedure with evidence of R groin
   hematoma, now stable
   - Continue iron  - increased to TID
   - Follow HCT, transfuse for HCT < 21
   - Obtain OSH records of EGD and colonoscopy
   .
   #. COPD - continue atrovent/albuterol nebs
   .
   #. PVD s/p SMA stenting [**8-15**] - bare metal stent, plavix/ASA on hold
   post-procedure, would restart once stable for neurosurgical standpoint
   .
   #. FEN - S&S following, recommend PO diet with thin liquids and regular
   solids
   .
   # PPX
 heparin sc, bowel regimen
   .
   #. Access - L PICC, A-line lost [**3-23**]
   .
   #. Code
 Full, will discuss further with pt. today as she may require
   reintubation for respiratory fatigue.
   .
   #. Dispo - ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-3-20**] 04:22 PM
   PICC Line - [**2189-3-23**] 11:56 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2189-03-25 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Started Vanc and Zosyn for HAP (and d/c'd Ceftriaxone)
   - Restarted ASA and plavix per neurosurg recs
   - CTA prelim: No PE. new mod-severe bilat pleural effusions with R>L
   atx, RML collapse, diffuse centrilobular emphysematous changes
   - Lasix 20 mg IV given -> brisk diuresis
   - Started Dilt 30 mg QID PO for tachycardia and hypertension
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2189-3-23**] 04:16 PM
   Vancomycin - [**2189-3-24**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2189-3-24**] 11:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2189-3-24**] 08:00 PM
   Famotidine (Pepcid) - [**2189-3-25**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2189-3-25**] 12:00 AM
   Morphine Sulfate - [**2189-3-25**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-3-25**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98.1
   HR: 84 (84 - 106) bpm
   BP: 166/50(81) {110/49(73) - 186/93(106)} mmHg
   RR: 15 (11 - 29) insp/min
   SpO2: 90-91% on 2
 L O2 by NC
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,445 mL
                                                                    377 mL
   PO:
             TF:
   IVF:
                                                                  2,445 mL
                                                                    377 mL
   Blood products:
   Total out:
                                                                  4,160 mL
                                                                  1,140 mL
   Urine:
                                                                  4,160 mL
                                                                  1,140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,715 mL
                                                                   -763 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool, Face tent
   SpO2: 99%
   ABG: ///38/
   Physical Examination
   Gen: alert and oriented X3, resting in bed
   CV: RRR, nl s1/s2, no MRG
   Resp: Coarse upper airway sounds. Decreased BS at bases R>L
   Abd: soft, NT/ND, NABS
   Ext: no edema, R groin small hematoma + bruit
   Neuro: speech spont & fluent, CN II-XII intact, mild left facial droop,
   pupils L 2cm, R 4cm reactive
   L finger flex/ext, biceps, L LE hip flex/ext, ankle flex/ext 4+, all
   other groups 5+
   Labs / Radiology
   367 K/uL
   8.3 g/dL
   90 mg/dL
   0.5 mg/dL
   38 mEq/L
   3.4 mEq/L
   9 mg/dL
   88 mEq/L
   133 mEq/L
   25.1 %
   11.0 K/uL
        [image002.jpg]
                             [**2189-3-21**]  02:52 AM
                             [**2189-3-21**]  05:49 AM
                             [**2189-3-21**]  04:55 PM
                             [**2189-3-22**]  02:50 AM
                             [**2189-3-22**]  10:00 AM
                             [**2189-3-22**]  04:08 PM
                             [**2189-3-22**]  05:58 PM
                             [**2189-3-23**]  02:27 AM
                             [**2189-3-24**]  01:00 AM
                             [**2189-3-25**]  01:54 AM
   WBC
   25.1
   13.6
   12.9
   10.4
   11.0
   Hct
   26.6
   23.3
   23.9
   23.0
   24.1
   25.1
   Plt
   451
   341
   336
   333
   367
   Cr
   0.6
   0.4
   0.6
   0.5
   0.5
   0.5
   TCO2
   34
   32
   31
   Glucose
   112
   100
   146
   120
   97
   97
   90
   Other labs: PT / PTT / INR:12.8/26.2/1.1, ALT / AST:13/8, Alk Phos / T
   Bili:81/0.3, Lactic Acid:1.2 mmol/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.4 mg/dL
   CXR portable [**2189-3-25**]
   (my read)
 pleural effusion better today, still R>L
   CTA Chest
   1. No pulmonary embolism is detected.
   2. New pulmonary edema and new moderate-to-severe bilateral pleural
   effusions
   and bibasilar atelectasis.
   3. New moderate atelectasis of the right middle lobe.
   4. Multiple exophytic cystic structures arising from the upper pole of
   the
   left kidney do not have appearance of a simple cyst. Further
   characterization
   of these cysts with MRI is recommended as described in detail in the CT
   of the
   torso of [**2189-3-17**].
   5. Indeterminate left adrenal lesion likely represents adenoma. This
   can
   also be confirmed at the time of MRI examination.
   6. Moderate centrilobular emphysema.
   Assessment and Plan
   Assessment & Plan: The patient is a 66y/o female with a PMH of PVD,
   HTN, hyperlipidemia admitted with large left proximal PICA aneurysm now
   s/p coiling transferred to MICU service for further management
   .
   #. Hypoxia - Sputum culture grew Moraxella and pt received 3 days of
   Ceftriaxone until yesterday ([**2189-3-24**]). It was switched to Vanc and
   zosyn given her continued respiratory distress and concern for HAP. CTA
   done yesterday showing new pulm edema (although not impressive), and
   new R>L moderate pleural effusion. Pt was doing better early this
   morning, satting 90-91% on 2.5L O2 NC, then desatted to 80s and had to
   be transitioned to 50% face mask.
   - Pulm edema and pleural effusion are not felt to be severe enough to
   cause the hypoxia that pt is experiencing.
   - Pt is net 2L neg in last 30 hours, with rise in bicarb, indicating
   likely contraction alkalosis. Will not diurese further.
   - Follow CXR
   - Recheck ABG
   - Mobilize pt (not moving much right now due to fatigue), chest PT,
   aggressive incentive spirometry.
   - Consider thoracentesis if the above fail to bring improvement in
   symptoms.
   - baseline COPD - inhalers prn
   - Goal O2 sat 90-92%, wean O2 as tolerated.
   - Continue vanc & zosyn for possible HAP (Day 1=[**2189-3-24**])
   .
   #. L PICA aneurysm s/p coiling - per neurosurgery patient now with
   expected left medullary infarct w/ left sided weakness. CT head stable
   on [**3-22**]. Neuro exam stable this morning.
   - no need to limit BP control currently per NSG recs
   - monitor neuro exam q4hrs (check with NSG); head CT if acute neuro
   change
   .
   #. R femoral hematoma - US without evidence of aneurysm or fistula,
   stable
   - continue to monitor HCT
 now stable
   .
   #. Severe iron deficiency/Acute Blood Loss anemia - received 2U PRBC on
   [**3-17**] for HCT 21, trended down post-procedure with evidence of R groin
   hematoma, now stable
   - Continue iron  - increased to TID
   - Follow HCT, transfuse for HCT < 21
   - Obtain OSH records of EGD and colonoscopy
   .
   #. COPD - continue atrovent/albuterol nebs
   .
   #. Left kidney cysts and left adrenal incidentaloma
   - incidental finding on CT.
   - needs MRI for further characterization sometime in near future
   .
   #. PVD s/p SMA stenting [**8-15**] - bare metal stent
   - Restarted plavix and ASA yesterday per NSurg
   .
   #. FEN - S&S following, recommend PO diet with thin liquids and regular
   solids. Pt continues to complain of food/pills getting stuck in the
   throat
 will f/u with S&S regarding any further recs. PT consult
   placed.
   .
   #. PPX
 heparin sc, bowel regimen, H2 blocker
   .
   #. Access - L PICC
   .
   #. Code
 Full
   .
   #. Dispo - ICU until respiratory status improves
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2189-3-23**] 11:56 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2189-03-25 09:41:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   S/P Embolization of cerebral aneurysm
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   --CTX stopped and Vanco/Zosyn started for re-expansion
   -ASA/PLavix started
   -CTA--no PE, pulmonary edema and effusions and atelectasis in RML and
   RLL and LLL, moderate emphysema
   _Diuresis undertaken
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2189-3-23**] 04:16 PM
   Vancomycin - [**2189-3-24**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2189-3-24**] 11:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2189-3-24**] 08:00 PM
   Famotidine (Pepcid) - [**2189-3-25**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2189-3-25**] 12:00 AM
   Morphine Sulfate - [**2189-3-25**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-3-25**] 09:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 97 (84 - 106) bpm
   BP: 157/64(87) {110/49(73) - 186/93(106)} mmHg
   RR: 17 (11 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,445 mL
                                                                    401 mL
   PO:
             TF:
   IVF:
                                                                  2,445 mL
                                                                    401 mL
   Blood products:
   Total out:
                                                                  4,160 mL
                                                                  1,340 mL
   Urine:
                                                                  4,160 mL
                                                                  1,340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,715 mL
                                                                   -939 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///38/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   367 K/uL
   90 mg/dL
   0.5 mg/dL
   38 mEq/L
   3.4 mEq/L
   9 mg/dL
   88 mEq/L
   133 mEq/L
   25.1 %
   11.0 K/uL
        [image002.jpg]
                             [**2189-3-21**]  02:52 AM
                             [**2189-3-21**]  05:49 AM
                             [**2189-3-21**]  04:55 PM
                             [**2189-3-22**]  02:50 AM
                             [**2189-3-22**]  10:00 AM
                             [**2189-3-22**]  04:08 PM
                             [**2189-3-22**]  05:58 PM
                             [**2189-3-23**]  02:27 AM
                             [**2189-3-24**]  01:00 AM
                             [**2189-3-25**]  01:54 AM
   WBC
   25.1
   13.6
   12.9
   10.4
   11.0
   Hct
   26.6
   23.3
   23.9
   23.0
   24.1
   25.1
   Plt
   451
   341
   336
   333
   367
   Cr
   0.6
   0.4
   0.6
   0.5
   0.5
   0.5
   TCO2
   34
   32
   31
   Glucose
   112
   100
   146
   120
   97
   97
   90
   Other labs: PT / PTT / INR:12.8/26.2/1.1, ALT / AST:13/8, Alk Phos / T
   Bili:81/0.3, Lactic Acid:1.2 mmol/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.4 mg/dL
   Imaging: CT--with emphysema pleural effusions RML and bilateral LL
   collapse, mild pulmonary edema
   Assessment and Plan
   66 yo female with persistent post operative hypoxemia--this appears to
   be largely related to multiple challenges to effective gas
   exchange--this is attributable to unerlying COPD in addition to post
   operative atelectasis, bilteral pleural effusions and strong suggestion
   of pulmonary edema in this setting all have combined to create
   intermittent and significant hypoxemia
 RESPIRATORY FAILURE, CHRONIC
   1)S/P cerebral artery embolization-
   -ASA/Plavix
   2)Hypoxemia
Multifactorial and dominant feature is the basilar
   atelectasis in the setting of apical lung tissue destruction from COPD
   driving hypoxemia.  On exam
bronchospasm does appear to be less likely.
   -Broad ABX
Vanco/Zosyn
   -No PE seen
   -Maintain even fluid balance in the setting of bilateral pleural
   effusions
she is not clearly volume overloaded and in fact is overall
   negative throughout hospital stay
   -She needs increased ambulation and movement and pain control and do
   incentive spirometry
   -No wheezes and no role for steroid therapy systemically
 MOTOR FUNCTION, IMPAIRED
 POSTURE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANEURYSM, OTHER
 .H/O ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY,
   [**Doctor Last Name 11**])
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines:
   PICC Line - [**2189-3-23**] 11:56 AM
   Prophylaxis:
   DVT: OOB and ambulate
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2189-03-26 07:00:00 Physician Resident Progress Note
Chief Complaint: Hypoxemia
   24 Hour Events:
 FLUOROSCOPY - At [**2189-3-25**] 02:40 PM
   BAS/UGI AIR/SBFT
 SPUTUM CULTURE - At [**2189-3-25**] 08:00 PM
 ARTERIAL LINE - START [**2189-3-25**] 10:00 PM
   - Nursing/Family concern about anxiety and depression. Restarted home
   xanex 0.5mg [**Hospital1 7**]. Ordered SW consult but holding due to intubation.
   - Barium Swallow: Limited esophagram study due to patient's limited
   mobility.
   However, no evidence of areas of narrowing or stricture. Episode of
   silent
   aspiration while drinking barium.
   - Desat to 70s while shifting position -> on NRBR, given Neb x1 -> sats
   up and down between 90s and 70s, pt fatigued, junky cough -> intubated
   7:30pm. Suctioned for thick white fluid. Sputum sent for gram stain/cx.
   ? aspiration of barium.
   - A-line placed
   - Blood gas (from just prior to intubation to this AM):
   7.50/50/160/40 -> 7.60/38/115/39 (acetazolamide x1, decreased tidal
   volume) -> 7.51/44/93/36 -> 7.44/50/113/35
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2189-3-23**] 04:16 PM
   Vancomycin - [**2189-3-25**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2189-3-26**] 06:08 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2189-3-25**] 08:00 AM
   Famotidine (Pepcid) - [**2189-3-25**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-3-26**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98
   HR: 88 (72 - 97) bpm
   BP: 160/63(96) {125/40(-8) - 174/63(99)} mmHg
   RR: 22 (14 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,568 mL
                                                                    479 mL
   PO:
                                                                    180 mL
             TF:
   IVF:
                                                                  1,388 mL
                                                                    279 mL
   Blood products:
   Total out:
                                                                  2,390 mL
                                                                  1,060 mL
   Urine:
                                                                  2,390 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -822 mL
                                                                   -581 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 500) mL
   Vt (Spontaneous): 507 (507 - 507) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 89
   PIP: 18 cmH2O
   Plateau: 14 cmH2O
   SpO2: 99%
   ABG: 7.44/50/113/32/8
   Ve: 7.2 L/min
   PaO2 / FiO2: 226
   Physical Examination
   Gen: Intubated, sedated, opens eyes to voice
   CV: RRR, normal s1/s2, no MRG
   Resp: Decreased breath sounds @bilateral bases, R worse than L. No
   wheezes/rales/rhonchi.
   Abd: soft, NT/ND, +BS
   Ext: no edema, R groin small hematoma, dressing C/D/I
   Neuro: pupils L 2cm, R 4cm reactive. Opens eyes to voice.
   Labs / Radiology
   336 K/uL
   8.1 g/dL
   130 mg/dL
   0.6 mg/dL
   32 mEq/L
   2.7 mEq/L
   9 mg/dL
   88 mEq/L
   131 mEq/L
   24.1 %
   11.1 K/uL
        [image002.jpg]
                             [**2189-3-22**]  04:08 PM
                             [**2189-3-22**]  05:58 PM
                             [**2189-3-23**]  02:27 AM
                             [**2189-3-24**]  01:00 AM
                             [**2189-3-25**]  01:54 AM
                             [**2189-3-25**]  07:09 PM
                             [**2189-3-25**]  11:30 PM
                             [**2189-3-26**]  02:11 AM
                             [**2189-3-26**]  02:24 AM
                             [**2189-3-26**]  05:59 AM
   WBC
   12.9
   10.4
   11.0
   11.1
   Hct
   23.9
   23.0
   24.1
   25.1
   24.1
   Plt
   [**Telephone/Fax (3) 6373**]36
   Cr
   0.6
   0.5
   0.5
   0.5
   0.6
   TCO2
   31
   40
   39
   36
   35
   Glucose
   120
   97
   97
   90
   130
   Other labs: PT / PTT / INR:13.6/26.8/1.2, Lactic Acid:0.7 mmol/L,
   Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Assessment & Plan: The patient is a 66y/o female with a PMH of PVD,
   HTN, hyperlipidemia, COPD admitted with large left proximal PICA
   aneurysm now s/p coiling transferred to MICU for hypoxia and
   respiratory distress.
   .
   #. Respiratory Failure - Sputum culture grew Moraxella and pt received
   3 days of Ceftriaxone until [**2189-3-24**]. It was switched to Vanc/Zosyn
   given her continued respiratory distress and concern for HAP. CTA done
   [**3-25**] showing new pulm edema (although not impressive), and new R>L
   moderate pleural effusion.  CT also mentions 8mm node causing RML
   collapse. Pt on 5L NC most of yesterday, had evidence of silent
   aspiration on barium swallow, required intubation for persistent
   hypoxia on NRBR.  Respiratory distress likely due to combination of
   atelectasis, pneumonia, baseline COPD (with possible increased dead
   space ventilation), and pneumonitis due to barium aspiration. Had
   severe metabolic alkalosis overnight, which responded to acetazolamide
   x1 and decrease in tidal volume.
   - Bronch today for BAL for gram stain/cx, deep suction.
   - Increase PEEP to [**10-19**] to recruit atelectatic airways, along as O2
   Sats are maintained
   - Trial PSV after bronchoscopy, likely will be extubated tomorrow.
   - Follow CXR.
   - Serial ABG.
   - Continue vanc & zosyn for possible HAP (Day 1=[**2189-3-24**])
   - Consider bilateral therapeutic thoracentesis if the above fail to
   bring improvement in respiratory function.
   - While intubated, goal pCO2 50-55, HCO3 30
   .
   #. Metabolic Alkalosis
 Likely multifactorial: Element of contraction
   alkalosis in setting of diuresis and poor PO intake for several days,
   plus COPD/PNA with elevated pC02 and compensatory HCO3 over past week.
   Differential also includes hyperaldosteronism. Will check Urine lytes
   (Cl- specifically) to rule this out. While intubated, goal pCO2 50-55,
   HCO3 30.
   - F/U urine chloride
   - Monitor ABGs
   .
   #. L PICA aneurysm s/p coiling - per neurosurgery patient now with
   expected left medullary infarct w/ left sided weakness. CT head stable
   on [**3-22**]. Unable to read yesterday, which per patient is new, but neuro
   exam otherwise stable. Will discuss with neurosurg and reevaluate when
   patient not sedated.
   - no need to limit BP control currently per NSG recs
   - monitor neuro exam q4hrs (check with NSG); head CT if acute neuro
   change
   .
   #. R femoral hematoma - US without evidence of aneurysm or fistula,
   stable
   - continue to monitor HCT
 now stable
   .
   #. Severe iron deficiency/Acute Blood Loss anemia - received 2U PRBC on
   [**3-17**] for HCT 21, trended down post-procedure with evidence of R groin
   hematoma, now stable
   - Continue iron  - increased to TID
   - Follow HCT, transfuse for HCT < 21
   - Obtain OSH records of EGD and colonoscopy
   .
   #. Left kidney cysts and left adrenal incidentaloma
   - incidental finding on CT.
   - needs MRI for further characterization sometime in near future
   .
   #. PVD s/p SMA stenting [**8-15**] - bare metal stent
   - Restarted plavix and ASA yesterday per NSurg
   .
   #.Anxiety/Depression
 On xanex 0.5mg [**Hospital1 7**] at home. Pt has PMHx of
   depression but not currently on medications. Significant nursing and
   family concern for depression during this admission. Likely will need
   social work +/- psychiatry consult when extubated and alert. Also may
   consider starting citalopram empirically.
   .
   #. FEN
 NG tube. Will start tube feeds today and obtain nutrition
   consult. Will need repeat S/SW eval after extubation given evidence of
   aspiration. Replete lytes prn.
   .
   #. PPX
 heparin sc, bowel regimen, H2 blocker
   .
   #. Access - L PICC ([**3-23**]), A Line ([**3-25**])
   .
   #. Code
 Full
   .
   #. Dispo - ICU until respiratory status improves
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2189-3-23**] 11:56 AM
   Arterial Line - [**2189-3-25**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6299**], MSIV
   MICU Intern Addendum:
   Patient seen and examined with MSIV and the rest of the MICU team.
   - Patient was intubated overnight due to worsening respiratory
   distress.  Will bronch today to further evaluate for causative
   organism; Trial pressure support and increase PEEP on vent to recruit
   atelectatic airspaces
   - check urine chloride to evaluate for cause of metabolic alkalosis
   - start tube feeds; will hold after midnight if anticipating extubation
   in the morning.
   - will repeat head CT per neurosurg recs to check for stability.

2189-03-26 09:15:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient with barium swallow yesterday
   Yesterday evening patient with worsening hypoxiemia with associated
   cough, tachypnea and inability to clear secretions.
   Patient unable to maintain SaO2>90% despite FIO2=1.0 and intubated with
   anesthesia without significant event
   24 Hour Events:
 FLUOROSCOPY - At [**2189-3-25**] 02:40 PM
   BAS/UGI AIR/SBFT
 SPUTUM CULTURE - At [**2189-3-25**] 08:00 PM
 ARTERIAL LINE - START [**2189-3-25**] 10:00 PM
   7.50/50/160--pre intubation
   7.60/38/118-ventilation decreased
   7.44/50/133--improved with decreased Ve
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2189-3-23**] 04:16 PM
   Piperacillin/Tazobactam (Zosyn) - [**2189-3-26**] 06:08 AM
   Vancomycin - [**2189-3-26**] 07:41 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2189-3-25**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Respiratory: Tachypnea
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2189-3-26**] 08:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98.1
   HR: 85 (72 - 97) bpm
   BP: 152/60(88) {125/40(-8) - 174/63(99)} mmHg
   RR: 22 (14 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,568 mL
                                                                    772 mL
   PO:
                                                                    180 mL
             TF:
   IVF:
                                                                  1,388 mL
                                                                    512 mL
   Blood products:
   Total out:
                                                                  2,390 mL
                                                                  1,210 mL
   Urine:
                                                                  2,390 mL
                                                                  1,210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -822 mL
                                                                   -438 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 500) mL
   Vt (Spontaneous): 433 (433 - 507) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 89
   PIP: 15 cmH2O
   Plateau: 14 cmH2O
   SpO2: 97%
   ABG: 7.44/50/113/32/8
   Ve: 4.4 L/min
   PaO2 / FiO2: 283
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.1 g/dL
   336 K/uL
   130 mg/dL
   0.6 mg/dL
   32 mEq/L
   2.7 mEq/L
   9 mg/dL
   88 mEq/L
   131 mEq/L
   24.1 %
   11.1 K/uL
        [image002.jpg]
                             [**2189-3-22**]  04:08 PM
                             [**2189-3-22**]  05:58 PM
                             [**2189-3-23**]  02:27 AM
                             [**2189-3-24**]  01:00 AM
                             [**2189-3-25**]  01:54 AM
                             [**2189-3-25**]  07:09 PM
                             [**2189-3-25**]  11:30 PM
                             [**2189-3-26**]  02:11 AM
                             [**2189-3-26**]  02:24 AM
                             [**2189-3-26**]  05:59 AM
   WBC
   12.9
   10.4
   11.0
   11.1
   Hct
   23.9
   23.0
   24.1
   25.1
   24.1
   Plt
   [**Telephone/Fax (3) 6373**]36
   Cr
   0.6
   0.5
   0.5
   0.5
   0.6
   TCO2
   31
   40
   39
   36
   35
   Glucose
   120
   97
   97
   90
   130
   Other labs: PT / PTT / INR:13.6/26.8/1.2, ALT / AST:13/8, Alk Phos / T
   Bili:81/0.3, Lactic Acid:0.7 mmol/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.5 mg/dL
   Imaging: CXR-Bilateral pleural effusions, persistent and collapse
   noted, barium seen in left lower lobe airways.
   Assessment and Plan
   66 yo female with history of COPD and now post procedure from coiling
   of CNS aneurysm and now with persistent and recurrent hypoxemia
   resulting in respiratory failure. She has a contribution from her
   underlying COPD and destructive lung disease dominant at apex
which is
   clearly seen on CT.  Following barium swallow
patient had likely
   aspiration (supported by CXR findings and clinical scenario) and with
   inability to clear secretions she has had further obstruction and loss
   of capacity to ventilate lower lobe areas contributing to further
   hypoxemia and ineffective ventilation.
   1)Respiratory Failure-Source as above
   -Will pursue bronchoscopy today for clearance of airway secretions
   -Increase PEEP to 10 and will look to recruit basilar lung units
   -Thoracentesis has been considered but with relatively small effusions
   and in the setting of positive airway pressure there is some risk for
   thoracentesis and pneumothorax but if re-expansion incomplete following
   bronch will have to consider thoracentesis
   2)S/P Embolization-
   -Follow exam
   -Some stable changes with unilateral weakness noted as persistent
   3)Metabolic Alkalosis-
   -[**Month (only) 51**] be manifestation of increased effective ventilation in the setting
   of previous chronic resp failure.
 RESPIRATORY FAILURE, CHRONIC
 BALANCE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 POSTURE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANEURYSM, OTHER
   ICU Care
   Nutrition: NGT Feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2189-3-23**] 11:56 AM
   Arterial Line - [**2189-3-25**] 10:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition :ICU
   Total time spent: 35

2189-03-27 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2189-3-26**] 02:26 PM
   - Urine chloride low, likely volume depletion, bolused 500 cc NS
   - Nutrition recs:
   While propofol drip is running, Nutren Pulm @ 35cc/hr.
   When propofol drip is off, incr to 40cc/hr
   - BAL performed & barium washed out, no samples sent for analysis
   - Head CT performed per neurosurg recs - no interval change; neurosurg
   to sign-off
   - vent settings CPAP [**10-17**] to recruit more airspaces, did well
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2189-3-26**] 08:32 PM
   Piperacillin/Tazobactam (Zosyn) - [**2189-3-27**] 05:31 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2189-3-27**] 12:31 AM
   Famotidine (Pepcid) - [**2189-3-27**] 12:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-3-27**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.7
C (99.8
   HR: 96 (77 - 97) bpm
   BP: 120/48(69) {95/42(58) - 152/60(88)} mmHg
   RR: 14 (12 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,230 mL
                                                                    671 mL
   PO:
             TF:
                                                                    243 mL
                                                                    269 mL
   IVF:
                                                                  1,727 mL
                                                                    292 mL
   Blood products:
   Total out:
                                                                  2,099 mL
                                                                    440 mL
   Urine:
                                                                  2,099 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    131 mL
                                                                    231 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 479 (295 - 480) mL
   PS : 10 cmH2O
   RR (Spontaneous): 13
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 94%
   ABG: 7.46/45/80.[**Numeric Identifier 176**]/31/6
   Ve: 5.5 L/min
   PaO2 / FiO2: 200
   Physical Examination
   Gen: Intubated, sedated, opens eyes to voice
   CV: RRR, normal s1/s2, no MRG
   Resp: Decreased breath sounds @bilateral bases, R worse than L. No
   wheezes/rales/rhonchi.
   Abd: soft, NT/ND, +BS
   Ext: no edema, R groin small hematoma, dressing C/D/I
   Neuro: pupils L 2cm, R 4cm reactive. Opens eyes to voice.
   Labs / Radiology
   373 K/uL
   8.5 g/dL
   114 mg/dL
   0.9 mg/dL
   31 mEq/L
   3.4 mEq/L
   14 mg/dL
   96 mEq/L
   134 mEq/L
   25.5 %
   13.1 K/uL
        [image002.jpg]
                             [**2189-3-24**]  01:00 AM
                             [**2189-3-25**]  01:54 AM
                             [**2189-3-25**]  07:09 PM
                             [**2189-3-25**]  11:30 PM
                             [**2189-3-26**]  02:11 AM
                             [**2189-3-26**]  02:24 AM
                             [**2189-3-26**]  05:59 AM
                             [**2189-3-26**]  10:08 AM
                             [**2189-3-26**]  10:42 PM
                             [**2189-3-27**]  02:45 AM
   WBC
   10.4
   11.0
   11.1
   13.1
   Hct
   24.1
   25.1
   24.1
   25.5
   Plt
   333
   367
   336
   373
   Cr
   0.5
   0.5
   0.6
   0.9
   TCO2
   40
   39
   36
   35
   31
   33
   Glucose
   97
   90
   130
   114
   Other labs: PT / PTT / INR:12.9/37.1/1.1, ALT / AST:13/8, Alk Phos / T
   Bili:81/0.3, Lactic Acid:0.6 mmol/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.1 mg/dL
   Assessment and Plan
   The patient is a 66y/o female with a PMH of PVD, HTN, hyperlipidemia,
   COPD admitted with large left proximal PICA aneurysm now s/p coiling
   transferred to MICU for hypoxia and respiratory distress.
   .
   #. Respiratory Failure - Sputum culture grew Moraxella and pt received
   3 days of Ceftriaxone until [**2189-3-24**]. It was switched to Vanc/Zosyn
   given her continued respiratory distress and concern for HAP. CTA done
   [**3-25**] showing new pulm edema (although not impressive), and new R>L
   moderate pleural effusion.  CT also mentions 8mm node causing RML
   collapse. Pt on 5L NC most of yesterday, had evidence of silent
   aspiration on barium swallow, required intubation for persistent
   hypoxia on NRBR.  Respiratory distress likely due to combination of
   atelectasis, pneumonia, baseline COPD (with possible increased dead
   space ventilation), and pneumonitis due to barium aspiration. Had
   severe metabolic alkalosis overnight, which responded to acetazolamide
   x1 and decrease in tidal volume.
   - Bronch today for BAL for gram stain/cx, deep suction.
   - Increase PEEP to [**10-19**] to recruit atelectatic airways, along as O2
   Sats are maintained
   - Trial PSV after bronchoscopy, likely will be extubated tomorrow.
   - Follow CXR.
   - Serial ABG.
   - Continue vanc & zosyn for possible HAP (Day 1=[**2189-3-24**])
   - Consider bilateral therapeutic thoracentesis if the above fail to
   bring improvement in respiratory function.
   - While intubated, goal pCO2 50-55, HCO3 30
   .
   #. Metabolic Alkalosis
 Likely multifactorial: Element of contraction
   alkalosis in setting of diuresis and poor PO intake for several days,
   plus COPD/PNA with elevated pC02 and compensatory HCO3 over past week.
   Differential also includes hyperaldosteronism. Will check Urine lytes
   (Cl- specifically) to rule this out. While intubated, goal pCO2 50-55,
   HCO3 30.
   - F/U urine chloride
   - Monitor ABGs
   .
   #. L PICA aneurysm s/p coiling - per neurosurgery patient now with
   expected left medullary infarct w/ left sided weakness. CT head stable
   on [**3-22**]. Unable to read yesterday, which per patient is new, but neuro
   exam otherwise stable. Will discuss with neurosurg and reevaluate when
   patient not sedated.
   - no need to limit BP control currently per NSG recs
   - monitor neuro exam q4hrs (check with NSG); head CT if acute neuro
   change
   .
   #. R femoral hematoma - US without evidence of aneurysm or fistula,
   stable
   - continue to monitor HCT
 now stable
   .
   #. Severe iron deficiency/Acute Blood Loss anemia - received 2U PRBC on
   [**3-17**] for HCT 21, trended down post-procedure with evidence of R groin
   hematoma, now stable
   - Continue iron  - increased to TID
   - Follow HCT, transfuse for HCT < 21
   - Obtain OSH records of EGD and colonoscopy
   .
   #. Left kidney cysts and left adrenal incidentaloma
   - incidental finding on CT.
   - needs MRI for further characterization sometime in near future
   .
   #. PVD s/p SMA stenting [**8-15**] - bare metal stent
   - Restarted plavix and ASA yesterday per NSurg
   .
   #.Anxiety/Depression
 On xanex 0.5mg [**Hospital1 7**] at home. Pt has PMHx of
   depression but not currently on medications. Significant nursing and
   family concern for depression during this admission. Likely will need
   social work +/- psychiatry consult when extubated and alert. Also may
   consider starting citalopram empirically.
   .
   #. FEN
 NG tube. Will start tube feeds today and obtain nutrition
   consult. Will need repeat S/SW eval after extubation given evidence of
   aspiration. Replete lytes prn.
   .
   #. PPX
 heparin sc, bowel regimen, H2 blocker
   .
   #. Access - L PICC ([**3-23**]), A Line ([**3-25**])
   .
   #. Code
 Full
   .
   #. Dispo - ICU until respiratory status improves
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2189-3-27**] 05:03 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2189-3-23**] 11:56 AM
   Arterial Line - [**2189-3-25**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2189-03-27 12:38:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failiure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2189-3-26**] 02:26 PM--thick secretions mixed with
   barium from LLL, other airways patent and without significant exudate
   or secretions.
   Transient
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2189-3-26**] 08:32 PM
   Piperacillin/Tazobactam (Zosyn) - [**2189-3-27**] 05:31 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2189-3-27**] 12:32 AM
   Heparin Sodium (Prophylaxis) - [**2189-3-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-3-27**] 12:31 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 78 (77 - 97) bpm
   BP: 94/47(58) {94/47(58) - 94/47(58)} mmHg
   RR: 12 (11 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,230 mL
                                                                  1,788 mL
   PO:
             TF:
                                                                    243 mL
                                                                    275 mL
   IVF:
                                                                  1,727 mL
                                                                  1,343 mL
   Blood products:
   Total out:
                                                                  2,099 mL
                                                                    570 mL
   Urine:
                                                                  2,099 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    131 mL
                                                                  1,218 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 410 (410 - 479) mL
   PS : 10 cmH2O
   RR (Spontaneous): 17
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: 7.46/45/80.[**Numeric Identifier 176**]/31/6
   Ve: 6.7 L/min
   PaO2 / FiO2: 200
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
some improved air movement with patient
   up in chair and with PT at bedside and patient on ventilator
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   373 K/uL
   114 mg/dL
   0.9 mg/dL
   31 mEq/L
   3.4 mEq/L
   14 mg/dL
   96 mEq/L
   134 mEq/L
   25.5 %
   13.1 K/uL
        [image002.jpg]
                             [**2189-3-24**]  01:00 AM
                             [**2189-3-25**]  01:54 AM
                             [**2189-3-25**]  07:09 PM
                             [**2189-3-25**]  11:30 PM
                             [**2189-3-26**]  02:11 AM
                             [**2189-3-26**]  02:24 AM
                             [**2189-3-26**]  05:59 AM
                             [**2189-3-26**]  10:08 AM
                             [**2189-3-26**]  10:42 PM
                             [**2189-3-27**]  02:45 AM
   WBC
   10.4
   11.0
   11.1
   13.1
   Hct
   24.1
   25.1
   24.1
   25.5
   Plt
   333
   367
   336
   373
   Cr
   0.5
   0.5
   0.6
   0.9
   TCO2
   40
   39
   36
   35
   31
   33
   Glucose
   97
   90
   130
   114
   Other labs: PT / PTT / INR:12.9/37.1/1.1, ALT / AST:13/8, Alk Phos / T
   Bili:81/0.3, Lactic Acid:0.6 mmol/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.1 mg/dL
   Fluid analysis / Other labs: 7.46/45/80--on PSV 10/10 at 40%
   Imaging: CXR-
   Assessment and Plan
   66 yo female with initial admission for coiling of cerebral aneurysm
   and now post procedure course compliacted by recurrent respiratory
   failure with atelectasis and aspiration driving acute need for
   re-intubation.  She has been supported with PSV with good tolerance of
   minimal support settings.  The concern at this point is that patient
   has some low grade fever noted and mild increase in WBC count.
   1)Respiratory Failure-
   -Continue Atrovent
   -Continue Vanco and will re-dose by trough/Zosyn
   -Will need to move to PSV 5/5 this morning and if favorable would move
   to SBT x 30 minutes and extubation.
   -Will continue with ABX
   -Repeat CXR to be completed with trial on [**5-12**]
   -Hope to move to extubation today.
   -With continued decreased motivation and suggestion of depressed mood
   will have to consider Ritalin or other simulants to aid in stimulation
   of patient participation in care.
   2)CNS Aneurysm/S/P coiling-
   -Plavix
   -ASA to continue
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2189-3-23**] 11:56 AM
   Arterial Line - [**2189-3-25**] 10:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2189-03-28 08:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - No cuff leak. Started decadron 4mg IV Q8hrs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2189-3-26**] 08:32 PM
   Piperacillin/Tazobactam (Zosyn) - [**2189-3-27**] 05:31 AM
   Piperacillin - [**2189-3-28**] 06:00 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2189-3-28**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-3-28**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.9
C (98.4
   HR: 79 (73 - 91) bpm
   BP: 145/54(86) {82/43(59) - 150/105(108)} mmHg
   RR: 12 (11 - 19) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,207 mL
                                                                    400 mL
   PO:
             TF:
                                                                    275 mL
                                                                    100 mL
   IVF:
                                                                  1,702 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  1,530 mL
                                                                    590 mL
   Urine:
                                                                  1,530 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    677 mL
                                                                   -190 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 551 (381 - 570) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 12 cmH2O
   SpO2: 94%
   ABG: 7.37/50/95.[**Numeric Identifier 143**]//1
   Ve: 5.4 L/min
   PaO2 / FiO2: 240
   Physical Examination
   Gen: Intubated, sedated, opens eyes to voice
   CV: RRR, normal s1/s2, no MRG
   Resp: Decreased breath sounds @bilateral bases, R worse than L. No
   wheezes/rales/rhonchi.
   Abd: soft, NT/ND, +BS
   Ext: no edema, R groin small hematoma, dressing C/D/I
   Neuro: pupils L 2cm, R 4cm reactive. Opens eyes to voice.
   Labs / Radiology
   377 K/uL
   8.3 g/dL
   114 mg/dL
   0.9 mg/dL
   31 mEq/L
   3.4 mEq/L
   14 mg/dL
   96 mEq/L
   134 mEq/L
   25.6 %
   10.2 K/uL
        [image002.jpg]
                             [**2189-3-25**]  11:30 PM
                             [**2189-3-26**]  02:11 AM
                             [**2189-3-26**]  02:24 AM
                             [**2189-3-26**]  05:59 AM
                             [**2189-3-26**]  10:08 AM
                             [**2189-3-26**]  10:42 PM
                             [**2189-3-27**]  02:45 AM
                             [**2189-3-27**]  01:58 PM
                             [**2189-3-27**]  04:01 PM
                             [**2189-3-28**]  06:00 AM
   WBC
   11.1
   13.1
   10.2
   Hct
   24.1
   25.5
   25.6
   Plt
   [**Telephone/Fax (3) 6426**]
   Cr
   0.6
   0.9
   TCO2
   39
   36
   35
   31
   33
   26
   30
   Glucose
   130
   114
   Other labs: PT / PTT / INR:12.3/26.1/1.0, ALT / AST:13/8, Alk Phos / T
   Bili:81/0.3, Lactic Acid:0.6 mmol/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.1 mg/dL
   Assessment and Plan
   The patient is a 66y/o female with a PMH of PVD, HTN, hyperlipidemia,
   COPD admitted with large left proximal PICA aneurysm now s/p coiling
   transferred to MICU for hypoxia and respiratory distress.
   .
   #. Respiratory Failure - Sputum culture grew Moraxella and pt received
   3 days of Ceftriaxone until [**2189-3-24**]. It was switched to Vanc/Zosyn
   given her continued respiratory distress and concern for HAP. CTA done
   [**3-25**] showing new pulm edema (although not impressive), and new R>L
   moderate pleural effusion.  CT also mentions 8mm node causing RML
   collapse. Pt on 5L NC most of yesterday, had evidence of silent
   aspiration on barium swallow, required intubation for persistent
   hypoxia on NRBR.  Respiratory distress likely due to combination of
   atelectasis, pneumonia, baseline COPD (with possible increased dead
   space ventilation), and pneumonitis due to barium aspiration. Had
   severe metabolic alkalosis overnight, which responded to acetazolamide
   x1 and decrease in tidal volume.
   - Attempt to extubated today, no cuff leak yesterday or this AM, but
   steroids started and 8.0 ETT is large for a small patient
   - D/c steroids at 24 hrs
   - Follow CXR - stable
   - Serial ABG.
   - Continue vanc & zosyn for possible HCAP day 5 (Day 1=[**2189-3-24**])
   duration 14 days
   - While intubated, goal pCO2 50-55, HCO3 30
   .
   #. Metabolic Alkalosis
 Resolved. Likely multifactorial: Element of
   contraction alkalosis in setting of diuresis and poor PO intake for
   several days, plus COPD/PNA with elevated pC02 and compensatory HCO3
   over past week. Differential also includes hyperaldosteronism. Will
   check Urine lytes (Cl- specifically) to rule this out. While intubated,
   goal pCO2 50-55, HCO3 30.
   - Improving, will bolus as needed
   - Monitor ABGs
   .
   #. L PICA aneurysm s/p coiling - per neurosurgery patient now with
   expected left medullary infarct w/ left sided weakness. CT head stable
   on [**3-22**]. Unable to read yesterday, which per patient is new, but neuro
   exam otherwise stable. Repeat Head CT unchanged.
   - no need to limit BP control currently per NSG recs, NS signed off
   .
   #. R femoral hematoma - US without evidence of aneurysm or fistula,
   stable
   - continue to monitor HCT
 now stable
   .
   #. Severe iron deficiency/Acute Blood Loss anemia - received 2U PRBC on
   [**3-17**] for HCT 21, trended down post-procedure with evidence of R groin
   hematoma, now stable
   - Continue iron  - increased to TID
   - Follow HCT, transfuse for HCT < 21
   - Obtain OSH records of EGD and colonoscopy
   .
   #. Left kidney cysts and left adrenal incidentaloma
   - needs MRI for further characterization sometime in near future
   .
   #. PVD s/p SMA stenting [**8-15**] - bare metal stent
   - Cont plavix and ASA per NSurg
   .
   #.Anxiety/Depression
 On xanex 0.5mg [**Hospital1 7**] at home. Pt has PMHx of
   depression but not currently on medications. Significant nursing and
   family concern for depression during this admission. Likely will need
   social work +/- psychiatry consult when extubated and alert. Also may
   consider starting citalopram empirically.
   - Will ask Psych input for starting Ritalin for amotivation and
   depression
   .
   #. FEN
 NG tube. Will start tube feeds today and obtain nutrition
   consult. Will need repeat S/SW eval after extubation given evidence of
   aspiration. Replete lytes prn.
   .
   #. PPX
 heparin sc, bowel regimen, H2 blocker
   .
   #. Access - L PICC ([**3-23**]), A Line ([**3-25**])
   .
   #. Code
 Full
   .
   #. Dispo - ICU until extubated and respiratory status improves
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2189-3-23**] 11:56 AM
   Arterial Line - [**2189-3-25**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2189-03-28 10:40:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   patient without cuff leak last pm.
   Decadron 4mg started for 24 hour course.
   This am--favorable RSBI and cuff leak clearly demonstrated
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2189-3-27**] 05:31 AM
   Piperacillin - [**2189-3-28**] 06:00 AM
   Vancomycin - [**2189-3-28**] 09:25 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2189-3-28**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2189-3-28**] 09:13 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-3-28**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.3
C (99.1
   HR: 80 (73 - 88) bpm
   BP: 158/55(93) {82/52(70) - 158/105(321)} mmHg
   RR: 17 (11 - 19) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,207 mL
                                                                    695 mL
   PO:
             TF:
                                                                    275 mL
                                                                    100 mL
   IVF:
                                                                  1,702 mL
                                                                    595 mL
   Blood products:
   Total out:
                                                                  1,530 mL
                                                                    810 mL
   Urine:
                                                                  1,530 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    677 mL
                                                                   -115 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 120 (120 - 570) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.37/50/95.[**Numeric Identifier 143**]/28/1
   Ve: 7.2 L/min
   PaO2 / FiO2: 240
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   377 K/uL
   118 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.6 mEq/L
   13 mg/dL
   102 mEq/L
   138 mEq/L
   25.6 %
   10.2 K/uL
        [image002.jpg]
                             [**2189-3-25**]  11:30 PM
                             [**2189-3-26**]  02:11 AM
                             [**2189-3-26**]  02:24 AM
                             [**2189-3-26**]  05:59 AM
                             [**2189-3-26**]  10:08 AM
                             [**2189-3-26**]  10:42 PM
                             [**2189-3-27**]  02:45 AM
                             [**2189-3-27**]  01:58 PM
                             [**2189-3-27**]  04:01 PM
                             [**2189-3-28**]  06:00 AM
   WBC
   11.1
   13.1
   10.2
   Hct
   24.1
   25.5
   25.6
   Plt
   [**Telephone/Fax (3) 6426**]
   Cr
   0.6
   0.9
   0.7
   TCO2
   39
   36
   35
   31
   33
   26
   30
   Glucose
   130
   114
   118
   Other labs: PT / PTT / INR:12.3/26.1/1.0, ALT / AST:13/8, Alk Phos / T
   Bili:81/0.3, Lactic Acid:0.6 mmol/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
   66 yo female with persistent respiratory compromise with extubation
   primarily limited by absence of cuff leak and concern for upper airway
   edema--this has rapidly resolved wtih decadron administration.
   1)Respiratory Failure
Patient with minimal change in infiltrates and
   effusions,   She had excellent tolerance of PSV and RSBI favorable.
   The one barrier was concern for upper airway edema and obstruction
   which has now resolved by documented cuff leak.
   -Will move to extubate today
   -Last dose of decadron today
   -D/C propofol
   -Will need close monitoring and PT to aid in clearance of secretions
   -Continue with ABX
   2)S/P coiling of aneurysm-
   -ASA/Plavix
   ICU Care
   Nutrition: npo
   Glycemic Control:
   Lines:
   PICC Line - [**2189-3-23**] 11:56 AM
   Arterial Line - [**2189-3-25**] 10:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2189-03-29 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2189-3-28**] 11:30 AM
 ARTERIAL LINE - STOP [**2189-3-28**] 02:43 PM
 NASAL SWAB - At [**2189-3-28**] 05:54 PM
   routine MRSA, ordered [**3-23**]
   - Extubated
   - Steroids d/c'd
   - A-line d/c'd
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2189-3-27**] 05:31 AM
   Vancomycin - [**2189-3-28**] 09:25 AM
   Piperacillin - [**2189-3-28**] 02:26 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2189-3-28**] 12:29 PM
   Heparin Sodium (Prophylaxis) - [**2189-3-28**] 03:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-3-29**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.3
C (97.4
   HR: 81 (69 - 85) bpm
   BP: 149/67(78) {131/48(71) - 208/179(184)} mmHg
   RR: 14 (10 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,620 mL
                                                                  1,113 mL
   PO:
             TF:
                                                                    100 mL
   IVF:
                                                                  1,305 mL
                                                                  1,073 mL
   Blood products:
   Total out:
                                                                  1,470 mL
                                                                    675 mL
   Urine:
                                                                  1,470 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    150 mL
                                                                    438 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 120 (120 - 120) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 7.2 L/min
   Physical Examination
   Gen: Intubated, sedated, opens eyes to voice
   CV: RRR, normal s1/s2, no MRG
   Resp: Decreased breath sounds @bilateral bases, R worse than L. No
   wheezes/rales/rhonchi.
   Abd: soft, NT/ND, +BS
   Ext: no edema, R groin small hematoma, dressing C/D/I
   Neuro: pupils L 2cm, R 4cm reactive. Opens eyes to voice.
   Labs / Radiology
   446 K/uL
   8.1 g/dL
   100 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.9 mEq/L
   14 mg/dL
   101 mEq/L
   136 mEq/L
   25.1 %
   13.7 K/uL
        [image002.jpg]
                             [**2189-3-26**]  02:11 AM
                             [**2189-3-26**]  02:24 AM
                             [**2189-3-26**]  05:59 AM
                             [**2189-3-26**]  10:08 AM
                             [**2189-3-26**]  10:42 PM
                             [**2189-3-27**]  02:45 AM
                             [**2189-3-27**]  01:58 PM
                             [**2189-3-27**]  04:01 PM
                             [**2189-3-28**]  06:00 AM
                             [**2189-3-29**]  03:30 AM
   WBC
   11.1
   13.1
   10.2
   13.7
   Hct
   24.1
   25.5
   25.6
   25.1
   Plt
   [**Telephone/Fax (3) 6441**]46
   Cr
   0.6
   0.9
   0.7
   0.5
   TCO2
   36
   35
   31
   33
   26
   30
   Glucose
   130
   114
   118
   100
   Other labs: PT / PTT / INR:12.2/24.4/1.0, ALT / AST:13/8, Alk Phos / T
   Bili:81/0.3, Lactic Acid:0.6 mmol/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
   The patient is a 66y/o female with a PMH of PVD, HTN, hyperlipidemia,
   COPD admitted with large left proximal PICA aneurysm now s/p coiling
   transferred to MICU for hypoxia and respiratory distress.
   .
   #. Respiratory Failure - Sputum culture grew Moraxella and pt received
   3 days of Ceftriaxone until [**2189-3-24**]. It was switched to Vanc/Zosyn
   given her continued respiratory distress and concern for HAP. CTA done
   [**3-25**] showing new pulm edema (although not impressive), and new R>L
   moderate pleural effusion.  CT also mentions 8mm node causing RML
   collapse. Pt on 5L NC most of yesterday, had evidence of silent
   aspiration on barium swallow, required intubation for persistent
   hypoxia on NRBR.  Respiratory distress likely due to combination of
   atelectasis, pneumonia, baseline COPD (with possible increased dead
   space ventilation), and pneumonitis due to barium aspiration. Had
   severe metabolic alkalosis overnight, which responded to acetazolamide
   x1 and decrease in tidal volume.
   - Attempt to extubated today, no cuff leak yesterday or this AM, but
   steroids started and 8.0 ETT is large for a small patient
   - D/c steroids at 24 hrs
   - Follow CXR - stable
   - Serial ABG.
   - Continue vanc & zosyn for possible HCAP day 5 (Day 1=[**2189-3-24**])
   duration 14 days
   - While intubated, goal pCO2 50-55, HCO3 30
   .
   #. Metabolic Alkalosis
 Resolved. Likely multifactorial: Element of
   contraction alkalosis in setting of diuresis and poor PO intake for
   several days, plus COPD/PNA with elevated pC02 and compensatory HCO3
   over past week. Differential also includes hyperaldosteronism. Will
   check Urine lytes (Cl- specifically) to rule this out. While intubated,
   goal pCO2 50-55, HCO3 30.
   - Improving, will bolus as needed
   - Monitor ABGs
   .
   #. L PICA aneurysm s/p coiling - per neurosurgery patient now with
   expected left medullary infarct w/ left sided weakness. CT head stable
   on [**3-22**]. Unable to read yesterday, which per patient is new, but neuro
   exam otherwise stable. Repeat Head CT unchanged.
   - no need to limit BP control currently per NSG recs, NS signed off
   .
   #. R femoral hematoma - US without evidence of aneurysm or fistula,
   stable
   - continue to monitor HCT
 now stable
   .
   #. Severe iron deficiency/Acute Blood Loss anemia - received 2U PRBC on
   [**3-17**] for HCT 21, trended down post-procedure with evidence of R groin
   hematoma, now stable
   - Continue iron  - increased to TID
   - Follow HCT, transfuse for HCT < 21
   - Obtain OSH records of EGD and colonoscopy
   .
   #. Left kidney cysts and left adrenal incidentaloma
   - needs MRI for further characterization sometime in near future
   .
   #. PVD s/p SMA stenting [**8-15**] - bare metal stent
   - Cont plavix and ASA per NSurg
   .
   #.Anxiety/Depression
 On xanex 0.5mg [**Hospital1 7**] at home. Pt has PMHx of
   depression but not currently on medications. Significant nursing and
   family concern for depression during this admission. Likely will need
   social work +/- psychiatry consult when extubated and alert. Also may
   consider starting citalopram empirically.
   - Will ask Psych input for starting Ritalin for amotivation and
   depression
   .
   #. FEN
 NG tube. Will start tube feeds today and obtain nutrition
   consult. Will need repeat S/SW eval after extubation given evidence of
   aspiration. Replete lytes prn.
   .
   #. PPX
 heparin sc, bowel regimen, H2 blocker
   .
   #. Access - L PICC ([**3-23**]), A Line ([**3-25**])
   .
   #. Code
 Full
   .
   #. Dispo - ICU until extubated and respiratory status improves
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2189-3-23**] 11:56 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2189-03-29 10:11:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2189-3-28**] 11:30 AM
 ARTERIAL LINE - STOP [**2189-3-28**] 02:43 PM
 NASAL SWAB - At [**2189-3-28**] 05:54 PM
   routine MRSA, ordered [**3-23**]
   Patient extubated with good cuff leak prior to extubation and following
   12 hours of steroids
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2189-3-27**] 05:31 AM
   Piperacillin - [**2189-3-28**] 02:26 PM
   Vancomycin - [**2189-3-29**] 07:46 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2189-3-28**] 12:29 PM
   Heparin Sodium (Prophylaxis) - [**2189-3-28**] 03:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough
   Flowsheet Data as of  [**2189-3-29**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.2
C (97.2
   HR: 81 (69 - 85) bpm
   BP: 145/57(79) {136/48(74) - 208/179(184)} mmHg
   RR: 17 (12 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,620 mL
                                                                  1,380 mL
   PO:
             TF:
                                                                    100 mL
   IVF:
                                                                  1,305 mL
                                                                  1,300 mL
   Blood products:
   Total out:
                                                                  1,470 mL
                                                                    975 mL
   Urine:
                                                                  1,470 mL
                                                                    975 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    150 mL
                                                                    405 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   446 K/uL
   100 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.9 mEq/L
   14 mg/dL
   101 mEq/L
   136 mEq/L
   25.1 %
   13.7 K/uL
        [image002.jpg]
                             [**2189-3-26**]  02:11 AM
                             [**2189-3-26**]  02:24 AM
                             [**2189-3-26**]  05:59 AM
                             [**2189-3-26**]  10:08 AM
                             [**2189-3-26**]  10:42 PM
                             [**2189-3-27**]  02:45 AM
                             [**2189-3-27**]  01:58 PM
                             [**2189-3-27**]  04:01 PM
                             [**2189-3-28**]  06:00 AM
                             [**2189-3-29**]  03:30 AM
   WBC
   11.1
   13.1
   10.2
   13.7
   Hct
   24.1
   25.5
   25.6
   25.1
   Plt
   [**Telephone/Fax (3) 6441**]46
   Cr
   0.6
   0.9
   0.7
   0.5
   TCO2
   36
   35
   31
   33
   26
   30
   Glucose
   130
   114
   118
   100
   Other labs: PT / PTT / INR:12.2/24.4/1.0, ALT / AST:13/8, Alk Phos / T
   Bili:81/0.3, Lactic Acid:0.6 mmol/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.3 mg/dL
   Imaging: CXR-Bilateral small areas of atelectasis at bases, minimal
   evidence of effusion, no focal consolidations.
   Assessment and Plan
   66 yo female admitted following PICA embolization and with progressive
   hypoxemic respiratory failure with atelectasis, small effusions and
   aspiratoin of barium leading to acute need for intubation.  She now has
   tolerated extubation with improved lung volumes, improved oxygenation
   and improved atelectasis.
   1)Respiratory Failure-
   -OOB to chair, ambulation today
   -Incentive spirometry
   -Excellent tolerance of wean of O2
   -Complete course of ABX
   -Really will be interventions to maintain airspace patency that will
   drive stability of oxygenation.
   2)S/P PICA Aneurysm-
   -Continue with ASA/Plavix
   3)Nutrition
Will continue to provide TF
s for now, encourage PO with
   swallowing verified as adequate.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2189-3-23**] 11:56 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition : TO FLOOR
   Total time spent: 35